US06063782
5-[3-(2,4-Difluorophenyl)propionyl]-2,3-dimethyl-1-(2-propenyl)pyrrole
The title compound was prepared as a pale yellow oil in 81.7% yield in a similar procedure to that described in Referential Example 97 by using 5-[3-(2,4-difluorophenyl)propionyl]-2,3-dimethylpyrrole and 3-bromo-1-propene.

reactant | 5-[3-(2,4-difluorophenyl)propionyl]-2,3-dimethylpyrrole | FC1=C(C=CC(=C1)F)CCC(=O)C1=CC(=C(N1)C)C | C15H15F2NO
reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
product | 5-[3-(2,4-Difluorophenyl)propionyl]-2,3-dimethyl-1-(2-propenyl)pyrrole | 81.7% yield | FC1=C(C=CC(=C1)F)CCC(=O)C1=CC(=C(N1CC=C)C)C | C18H19F2NO
